US06809199B2
Step A: 1-tert-Butylpiperidin-4-ol
To a 0° C. solution of 1.0 g of 1-tert-butylpiperidin-4-one (COMPOUND PPA-1) in 2 mL of THF was added 6.4 mL of a 1M solution of lithium aluminum hydride in THF dropwise. The mixture was stirred 10 min at rt, then quenched by careful addition of 0.2 mL of water, 0.2 mL of 15% aqueous NaOH, and 0.6 mL of water. The mixture was stirred vigorously for 30 min, then filtered and concentrated to yield the title compound.

reactant | 1-tert-butylpiperidin-4-one | 1.0 g | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-tert-Butylpiperidin-4-ol | C(C)(C)(C)N1CCC(CC1)O | C9H19NO
